US06320081B1
Preparation of 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-benzyloxy-4-nitrobenzene
43.8 g of 1-(4-nitro-2,3,5,6-tetrafluorophenoxy)-3-benzyloxy-4-nitrobenzene prepared as described in Example 12 (0.1 mol) are dissolved in a mixture of 200 ml of dimethyl sulfoxide and 30 ml of water in a three-neck flask fitted with reflux condenser and stirrer. 15 g of potassium carbonate (0.11 mol) and 10 g of potassium hydrogen carbonate (0.1 mol) are added in portions to the solution, and the mixture is then stirred at 80° C. for 24 hours. The reaction solution is then filtered via a fluted filter, and the crude product is extracted by shaking with 200 ml of ethyl acetate and 400 ml of water. The organic phase is washed three times with water, dried over sodium sulfate and evaporated to half in a rotary evaporator. The precipitated reaction product is then recrystallized from a mixture of methylene chloride and petrol ether (volume ratio 1:1) and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet.

reactant | 1-(4-nitro-2,3,5,6-tetrafluorophenoxy)-3-benzyloxy-4-nitrobenzene | 43.8 g | [N+](=O)([O-])C1=C(C(=C(OC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C(=C1F)F)F)F | C19H10F4N2O6
reactant | potassium carbonate | 0.11 mol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen carbonate | 0.1 mol, 10 g | C(O)([O-])=O.[K+]
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | 30 ml | O | H2O
product | 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-benzyloxy-4-nitrobenzene | OC=1C(=C(OC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C(=C(C1[N+](=O)[O-])F)F)F | C19H11F3N2O7
